US07910613B2
2-Furan-2-yl-1-phenyl-ethanone (intermediate for 5-furan-2-yl-4-phenyl-tliazol-2-ylamine)
2-Furan-2-yl-3-oxo-3-phenyl-propionic acid ethyl ester, prepared as described by Dorsch J. B. and McElvain S. M., J Am. Chem. Soc 1932, 54, 2960-2963; (10.0 g, 39 mmol) was dissolved in N-methylpyrrolidin-2-one (13 mL) and acetic acid (3.9 mL) and lithium chloride (4.7 g, 110 mmol) was added. The reaction mixture was heated at reflux for 7 h, then saturated aqueous NaHCO3 was added and the mixture was extracted with diethyl ether. The organic extracts were dried over sodium sulfate, filtered, concentrated in vacuo and purified by flash column chromatography using 1% ethyl acetate in hexane as eluent. Yield: 6.2 g, 85%.

reactant | 2-Furan-2-yl-3-oxo-3-phenyl-propionic acid ethyl ester | C(C)OC(C(C(C1=CC=CC=C1)=O)C=1OC=CC1)=O | C15H14O4
reactant | acetic acid | 3.9 mL | C(C)(=O)O | C2H4O2
reactant | lithium chloride | 110 mmol, 4.7 g | [Cl-].[Li+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N-methylpyrrolidin-2-one | 13 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Furan-2-yl-1-phenyl-ethanone | O1C(=CC=C1)CC(=O)C1=CC=CC=C1 | C12H10O2
